US07935716B2
223 mg of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate and 129 mg of 2-amino-5-chlorothiazole were added to 2.5 ml of bromobenzene, then, the mixture was stirred for 8.5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature. The resulting solid was collected by filtration, and washed with a mixed solvent of t-butyl methyl ether and hexane and dried to obtain 153 mg of N-(5-chlorothiazol-2-yl)-1,3-dimethyl-4-hydroxy-2-oxo-1,2-d ihydropyridine-3-carboxamide (hereinafter, referred to as present compound 22) represented by the formula:

reactant | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate | 223 mg | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
reactant | 2-amino-5-chlorothiazole | 129 mg | NC=1SC(=CN1)Cl | C3H3ClN2S
reactant | bromobenzene | 2.5 ml | BrC1=CC=CC=C1 | C6H5Br
product | N-(5-chlorothiazol-2-yl)-1,3-dimethyl-4-hydroxy-2-oxo-1,2-d ihydropyridine-3-carboxamide | 153 mg | ClC1=CN=C(S1)NC(=O)C1(C(N(C=CC1O)C)=O)C | C11H12ClN3O3S
